US08304446B2
6-Fluoro-4-methoxy-1H-indazol-3-amine
2,4-Difluoro-6-methoxybenzonitrile (for a preparation see Intermediate 48) (29.2 g, 0.17 mol) was suspended in n-butanol (250 mL) and hydrazine hydrate (16.6 mL, 0.34 mol) was added. The suspension was heated at 110° C. for 19 h, then 115° C. for 4 h. The reaction was allowed to cool and a solid formed overnight. The solid was collected by filtration, and washed with n-butanol. Solid is mainly an aryl hydrazine by-product (uncyclised or regioisomer). The filtrate was concentrated and azeotroped with toluene to give 15.6 g of crude product (84% by LCMS). The crude product was taken up in ˜400 mL water, ˜5 mL AcOH and ˜350 mL ethyl acetate and any insoluble material was discarded. The organic layer was washed with water, dried (MgSO4) and evaporated. The residue was taken up in hot ethyl acetate (75 mL, 55° C.) and heptane was added (20 mL). The solid was collected by filtration, washed with heptane. This was repeated twice to give the title compound (6.7 g, 21%) as a purple solid.

reactant | 2,4-Difluoro-6-methoxybenzonitrile | FC1=C(C#N)C(=CC(=C1)F)OC | C8H5F2NO
reactant | hydrazine hydrate | 0.34 mol, 16.6 mL | O.NN
reactant | AcOH | ˜5 mL | CC(=O)O | C2H4O2
reactant | EtOAc | ˜350 mL | CCOC(=O)C | C4H8O2
solvent | n-butanol | 250 mL | C(CCC)O | C4H10O
solvent | water | ˜400 mL | O | H2O
product | 6-Fluoro-4-methoxy-1H-indazol-3-amine | 6.7 g, 21% | FC1=CC(=C2C(=NNC2=C1)N)OC | C8H8FN3O
